US04933453
3-[4-[1-(4-Chlorophenyl)-4-piperazinyl]butyl]-4-thiazolidinone hydrochloride
To a solution of 3-(4-bromobutyl)-4-thiazolidinone (3.0 g) and 1-(4-chlorophenyl)piperazine dihydrochloride (3.4 g) in 100 ml of anhydrous CH3CN were added K2CO3 (8.7 g) and KI (200 mg). The mixture was heated to 80° with stirring under N2.

reactant | 3-(4-bromobutyl)-4-thiazolidinone | 3.0 g | BrCCCCN1CSCC1=O | C7H12BrNOS
reactant | 1-(4-chlorophenyl)piperazine dihydrochloride | 3.4 g | Cl.Cl.ClC1=CC=C(C=C1)N1CCNCC1
reactant | K2CO3 | 8.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 3-[4-[1-(4-Chlorophenyl)-4-piperazinyl]butyl]-4-thiazolidinone hydrochloride | Cl.ClC1=CC=C(C=C1)N1CCN(CC1)CCCCN1CSCC1=O | InChI=1S/C17H24ClN3OS.ClH/c18-15-3-5-16(6-4-15)20-11-9-19(10-12-20)7-1-2-8-21-14-23-13-17(21)22;/h3-6H,1-2,7-14H2;1H
